US07521446B2
(tert-Butoxy)-N-[1-(pyrrolidinylcarbonyl)(4-piperidyl)]carboxamide
1-Pyrrolidine carbonylchloride (1.10 g, 9.99 mmol) was dissolved in 400 ml if dichloromethane under N2. (Tert-butoxy)-N-(4-piperidy)carboxamide (2.0 g, 9.99 mmol) and triethyl amine (1.40 mL, 9,99 mmol) were added and the reaction mixture was stirred for three days. The reaction was quenched with sat. NaHCO3 solution and extracted with dichloromethane. The combined organic phases were dried over MgSO4 and the solvent evaporated to give the product as a white solid. (2.63 g, 8.84 mmol, 89%).

reactant | 1-Pyrrolidine carbonylchloride | 9.99 mmol, 1.10 g | N1(CCCC1)C(=O)Cl | C5H8ClNO
reactant | (Tert-butoxy)-N-(4-piperidy)carboxamide | 9.99 mmol, 2.0 g | C(C)(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | triethyl amine | 9,99 mmol, 1.40 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (tert-Butoxy)-N-[1-(pyrrolidinylcarbonyl)(4-piperidyl)]carboxamide | C(C)(C)(C)OC(=O)NC1CCN(CC1)C(=O)N1CCCC1 | C15H27N3O3
